US09403845B2
Preparation of 2-(1-pyridin-3-yl-1H-pyrazol-4-yl)-6,7-dihydro-5H-quinolin-8-one (Compound 7.002)
A mixture of 2-chloro-6,7-dihydro-8(5H)-quinolinone (1.14 g, 6.3 mmol, prepared as described in J. Org. Chem. 1990, 55, 4789) and 3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-pyridine (1.7 g, 6.3 mmol, WO 2012/000896), sodium carbonate (3.15 g, 29.6 mmol) in a mixture of acetonitrile (50 ml) and water (30 ml) was purged with argon for 10 min. To this solution was added Pd[P(Ph)3]4 (270 mg, 0.23 mmol) and the solution was heated at 80° C. overnight. The reaction mixture was diluted with ethyl acetate and the water phase was separated. The organic phase was washed with brine and dried over anhydrous MgSO4, filtered and concentrated in vacuo. The residue was crystallized in isopropanol/petrol ether (1:1) to give two crops of the title product as a beige solid.

reactant | 2-chloro-6,7-dihydro-8(5H)-quinolinone | 6.3 mmol, 1.14 g | ClC1=NC=2C(CCCC2C=C1)=O | C9H8ClNO
reactant | 3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-pyridine | 6.3 mmol, 1.7 g | CC1(OB(OC1(C)C)C=1C=NN(C1)C=1C=NC=CC1)C | C14H18BN3O2
reactant | sodium carbonate | 29.6 mmol, 3.15 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | water | 30 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1-pyridin-3-yl-1H-pyrazol-4-yl)-6,7-dihydro-5H-quinolin-8-one | N1=CC(=CC=C1)N1N=CC(=C1)C1=NC=2C(CCCC2C=C1)=O | C17H14N4O
